US06203785B1
Synthesis of Diallylmethyldodecylammonium bromide
To a 2 L Morton flask was added diallylmethylamine (100 g), 1-bromododecane (249 g), and tetrahydrofuran (750 mL). The mixture was heated to 65° C. for 44 h, and then allowed to cool to room temperature. The solvent was removed by rotary vacuum evaporation to leave two layers. Diethylether (500 mL) was added and the mixture was stirred for 1 hr. The mixture was allowed to settle and the top layer was decanted and discarded. Additional diethylether (500 mL) was added. The mixture was stirred for 24 h, and the top layer was again decanted and discarded. The remaining oil was dried in a vacuum oven at 65° C. for 4 days to yield 67 g of product.

reactant | diallylmethylamine | 100 g | C(C=C)C(CC=C)N | C7H13N
reactant | 1-bromododecane | 249 g | BrCCCCCCCCCCCC | C12H25Br
reactant | tetrahydrofuran | 750 mL | O1CCCC1 | C4H8O
solvent | Diethylether | 500 mL | C(C)OCC | C4H10O
product | Diallylmethyldodecylammonium bromide | 67 g | [Br-].C(C=C)C(CC=C)[NH2+]CCCCCCCCCCCC | InChI=1S/C19H37N.BrH/c1-4-7-8-9-10-11-12-13-14-15-18-20-19(16-5-2)17-6-3;/h5-6,19-20H,2-4,7-18H2,1H3;1H
